US06452032B1
(Z)-4-{[8-(4-tert-Butylphenyl)-5,5-dimethyl-5,6-dihydronaphthalen-2-yl]-trimethylsilanylvinyl}benzyl Alcohol.(Compound 29)
Following General Procedure A, 4-[(trimethylsilyl)ethynyl]benzyl tert-butyldiphenylsilyl ether and 6-bromo-4-(tert-butylphenyl)-1,1-dimethyl-1,2-dihydronaphthalene (which can be prepared by the procedure described in Klein, et al., U.S. Pat. No. 5,952,345) were coupled to give the title compound (Compound 29). PNMR (300 MHz, CDCl3): δ0.0 (s, 9 H), 1.48 (s, 6 H), 1.51 (s, 9 H), 2.49 (d, J=4.8 Hz, 2 H), 4.82 (d, J=4.8 Hz, 2 H), 6.13 (t, J=4.8 Hz, 1 H), 7.00 (d, J=1.7 Hz, 1 H), 7.22 (dd, J=1.7, 7.9 Hz, 1 H), 7.30-7.50 (m, 8 H), 7.55 (d, J=8.8 Hz, H).

reactant | 4-[(trimethylsilyl)ethynyl]benzyl tert-butyldiphenylsilyl ether | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC=C(C=C1)C#C[Si](C)(C)C | C28H34OSi2
reactant | 6-bromo-4-(tert-butylphenyl)-1,1-dimethyl-1,2-dihydronaphthalene | BrC=1C=C2C(=CCC(C2=CC1)(C)C)C1=C(C=CC=C1)C(C)(C)C | C22H25Br
product | (Z)-4-{[8-(4-tert-Butylphenyl)-5,5-dimethyl-5,6-dihydronaphthalen-2-yl]-trimethylsilanylvinyl}benzyl Alcohol | C(C)(C)(C)C1=CC=C(C=C1)C1=CCC(C=2C=CC(=CC12)/C(=C/C1=CC=C(CO)C=C1)/[Si](C)(C)C)(C)C | C34H42OSi
